US08563565B2
(1) Synthesis of 3-bromo-6-(difluoromethoxy)-2,4-dimethylpyridine
A mixture of 5-bromo-4,6-dimethylpyridin-2-ol obtained in Preparation Example 23(1) (500 mg), 2-(fluorosulfonyl)difluoroacetic acid (0.307 mL) and sodium sulfate (70.3 mg) was stirred in an acetonitrile solvent (10 mL) at room temperature for 3.5 hours. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, and the mixture was then concentrated under reduced pressure. The residue was extracted with ethyl acetate, and the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 0% to 10%) to give the title compound (68.6 mg).

reactant | 5-bromo-4,6-dimethylpyridin-2-ol | BrC=1C(=CC(=NC1C)O)C | C7H8BrNO
reactant | 2-(fluorosulfonyl)difluoroacetic acid | 0.307 mL | FS(=O)(=O)C(C(=O)O)(F)F | C2HF3O4S
reactant | sodium sulfate | 70.3 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-bromo-6-(difluoromethoxy)-2,4-dimethylpyridine | 68.6 mg | BrC=1C(=NC(=CC1C)OC(F)F)C | C8H8BrF2NO
